US07645789B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide (320 mg, 0.84 mmol) was dissolved in a mixture composed of anhydrous DMF (0.5 mL) and anhydrous THF (5 mL) under N2. NaH (60% in mineral oil, 120 mg, 3.0 mmol) was added at room temperature. After 30 min of stirring, the reaction mixture was cooled to −15° C. before a solution of epichlorohydrin (79 μL, 1.0 mmol) in anhydrous DMF (1 mL) was added dropwise. The reaction mixture was stirred for 15 min at −15° C., then for 8 h at room temperature. MeOH (1 mL) was added and the mixture was heated for 10 min at 105° C. in the microwave oven. The mixture was cooled, filtered and purified by preparative HPLC to give 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-hydroxy-3-methoxy-propyl)-1H-indol-5-yl)cyclopropanecarboxamide.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide | 0.84 mmol, 320 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | NaH | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | epichlorohydrin | 1.0 mmol, 79 μL | C(Cl)C1CO1 | C3H5ClO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-hydroxy-3-methoxy-propyl)-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2)CC(COC)O)C(C)(C)C | C27H32N2O5
